US06936625B2
Preparation of Amlodipine Camsylate 3
12.25 g (0.03 mol) of amlodipine was dissolved in 50 ml of methanol, cooled to 10° C., and a solution of 7.8 g (0.336 mol) of (±)-10-camphor sulfonic acid (Aldrich) in 19.5 ml of methanol was gradually added thereto. 16.0 g (yield: 83.2%) of the title compound in the form of a white crystal was obtained by using the same method described in Example 1.

reactant | amlodipine | 0.03 mol, 12.25 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
reactant | (±)-10-camphor sulfonic acid | 0.336 mol, 7.8 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 19.5 ml | CO | CH4O
product | Amlodipine Camsylate | 16.0 g, yield: 83.2% | CCOC(=O)C1=C(NC(=C(C1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN.CC1([C@@H]2CC[C@]1(C(=O)C2)CS(=O)(=O)O)C | InChI=1S/C20H25ClN2O5.C10H16O4S/c1-4-28-20(25)18-15(11-27-10-9-22)23-12(2)16(19(24)26-3)17(18)13-7-5-6-8-14(13)21;1-9(2)7-3-4-10(9,8(11)5-7)6-15(12,13)14/h5-8,17,23H,4,9-11,22H2,1-3H3;7H,3-6H2,1-2H3,(H,12,13,14)/t;7-,10-/m.1/s1
